US07776857B2
In a nitrogen purged sealed tube was dissolved N-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenyl)-4-(4-(2-(triethylsilyl)ethynyl)phenyl)phthalazin-1-amine (0.100 g, 0.164 mmol) in MeOH (2.00 mL). Potassium carbonate (0.068 g, 0.492 mmol) was added and the reaction was stirred at 20° C. for 24 h and then concentrated. The crude was extracted into DCM, washed 1× with water, 1× with brine, dried over Na2SO4, filtered through fritted funnel, concentrated. The resulting crude material was purified by silica gel chromatography eluting with 0-100% CH2Cl2:MeOH(90:10)/CH2Cl2. The product fractions were concentrated to afford 4-(4-ethynylphenyl)-N-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenyl)phthalazin-1-amine as light yellow solid. MS [M+H]=496; Calc'd 495.5 for C31H21N5O2.

reactant | N-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenyl)-4-(4-(2-(triethylsilyl)ethynyl)phenyl)phthalazin-1-amine | 0.164 mmol, 0.100 g | COC1=CN=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=C(C=C1)C#C[Si](CC)(CC)CC | C37H35N5O2Si
reactant | Potassium carbonate | 0.492 mmol, 0.068 g | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH | 2.00 mL | CO | CH4O
product | 4-(4-ethynylphenyl)-N-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenyl)phthalazin-1-amine | C(#C)C1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=CN=C12)OC | C31H21N5O2
